US06727264B1
5-(3,5-DICHLOROPHENOXY)-N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-1H-PYRROLE-2-CARBOXAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 5-(3,5-dichlorophenoxy)-1H-pyrrole-2-carbonyl chloride: ESMS m/e: 634.2 (M+H)+.

reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
reactant | 5-(3,5-dichlorophenoxy)-1H-pyrrole-2-carbonyl chloride | ClC=1C=C(OC2=CC=C(N2)C(=O)Cl)C=C(C1)Cl | C11H6Cl3NO2
product | 5-(3,5-DICHLOROPHENOXY)-N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-1H-PYRROLE-2-CARBOXAMIDE | ClC=1C=C(OC2=CC=C(N2)C(=O)N[C@@H](CCN2CCC(CC2)C2=CC(=CC=C2)NC(C(C)C)=O)C2=CC=CC=C2)C=C(C1)Cl | C35H38Cl2N4O3
